US07713994B2
6-Iodo-4-{[(1-methyl-4-oxo-5-propoxy-1,4-dihydro-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-1-methyl-5-propoxy-1H-pyridin-4-one (196 mg, 1.0 mmole), 10 mL of N,N-dimethylformamide is stirred, 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione (329 mg, 1.0 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness, triturated with 5% methanol in chlororform, filtered washed with fresh 5% methanol in chloroform, washed with acetonitrile and dried to give an off-white solid, 124 mg, (24%); m.p. 176-96° C. dec; MS (ES+): m/z 494.0 (M+H).

reactant | 2-aminomethyl-1-methyl-5-propoxy-1H-pyridin-4-one | 1.0 mmole, 196 mg | NCC=1N(C=C(C(C1)=O)OCCC)C | C10H16N2O2
reactant | 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione | 1.0 mmole, 329 mg | COC=C1C(NC(C2=CC=C(C=C12)I)=O)=O | C11H8INO3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Iodo-4-{[(1-methyl-4-oxo-5-propoxy-1,4-dihydro-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC=1N(C=C(C(C1)=O)OCCC)C | C20H20IN3O4
